US04686230
50 g of 2,3-dimethoxyphenol are reacted analogously to Example B12a with 80 g of potassium hydroxide and chlorodifluoromethane in dioxane/water. The mixture is extracted with diisopropyl ether by shaking, the extract is washed with sodium hydroxide solution and 35 g of a product (b.p. 70°-74° C./0.3 mbar) are obtained which is reacted with 100% nitric acid analogously to Example B7b. The reaction product is subjected to chromatography on a silica gel column with cyclohexane/ethyl acetate (3:2), after which 1-difluoromethoxy-2,3-dimethoxy-5-nitrobenzene (m.p. 72°-73° C.) is isolated in 48% yield.

reactant | 2,3-dimethoxyphenol | 50 g | COC1=C(C=CC=C1OC)O | C8H10O3
reactant | potassium hydroxide | 80 g | [OH-].[K+]
reactant | chlorodifluoromethane | ClC(F)F | CHClF2
reactant | nitric acid | [N+](=O)(O)[O-] | HNO3
solvent | dioxane water | O1CCOCC1.O
catalyst | B12a | CC1=CC2=C(C=C1C)N(C=N2)[C@@H]3C(C([C@@H](O3)CO)OP(=O)([O-])O[C@H](C)CNC(=O)CC[C@@]\4([C@H]([C@@H]5[C@]6([C@@]([C@@H](C(=N6)/C(=C\7/[C@@]([C@@H](C(=N7)/C=C\8/C([C@@H](C(=N8)/C(=C4\[N-]5)/C)CCC(=O)N)(C)C)CCC(=O)N)(C)CC(=O)N)/C)CCC(=O)N)(C)CC(=O)N)C)CC(=O)N)C)O.O.[Co+2]
solvent | cyclohexane ethyl acetate | C1CCCCC1.C(C)(=O)OCC
product | 1-difluoromethoxy-2,3-dimethoxy-5-nitrobenzene | 48% yield | FC(OC1=C(C(=CC(=C1)[N+](=O)[O-])OC)OC)F | C9H9F2NO5
